US05527523
b): 4-Benzyloxyphenol N-hexadecanoyl-(l)-alaninate:
16.4 g (0.05 mol) of N-hexadecanoyl-(l)-alanine and 8.1 g (0.05 mol) of 1,1-carbonyldiimidazole are dissolved in 100 ml of dimethylformamide, the solution is stirred at 5° for 1 hour, 10 g (0.05 mol) of 4-benzyloxyphenol in 50 ml of dimethylformamide are run in, the mixture is stirred for 18 hours and evaporated and the residue is then taken up with chloroform. After washes with water and dilute sodium hydroxide solution and drying, the title derivative is obtained in the pure state, m.p.=77°/9°, and only shows a single spot of Rf(i)=0.76 in TLC.

reactant | N-hexadecanoyl-(l)-alanine | 0.05 mol, 16.4 g | C(CCCCCCCCCCCCCCC)(=O)N[C@@H](C)C(=O)O | C19H37NO3
reactant | 4-benzyloxyphenol | 0.05 mol, 10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Benzyloxyphenol N-hexadecanoyl-(l)-alaninate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O.C(CCCCCCCCCCCCCCC)(=O)N[C@@H](C)C(=O)[O-] | InChI=1S/C19H37NO3.C13H12O2/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-18(21)20-17(2)19(22)23;14-12-6-8-13(9-7-12)15-10-11-4-2-1-3-5-11/h17H,3-16H2,1-2H3,(H,20,21)(H,22,23);1-9,14H,10H2/p-1/t17-;/m0./s1
